US04772600
2-(4-Chlorophenyl)-N,N-dipropyl-1H-imidazo[4,5-b]pyridine-1-acetamide hydrate [1:0.5]
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid (3.83 g, 0.013 mole) and 1,1'-carbonyldiimidazole (2.11 g, 0.013 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 4 hrs. Dipropylamine (2.63 g, 0.026 mole) was added and the reaction mixture was heated at reflux for 2 hrs, followed by standing at room temperature over the weekend. The tetrahydrofuran was evaporated to dryness and placed under high vacuum overnight. The residue was dissolved in isopropyl alcohol, filtered, and diluted with water to produce a crystalline product upon refrigeration. The solid was collected by filtration, washed with water, and dried under high vacuum overnight to give 1.22 g. A recrystallization from isopropyl alcohol-water gave 0.91 g of title compound after drying under high vacuum at 50° C. over the weekend, mp 139°-141° C.

reactant | 2-(4-chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid | 0.013 mole, 3.83 g | ClC1=CC=C(C=C1)C=1N(C=2C(=NC=CC2)N1)CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.013 mole, 2.11 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Dipropylamine | 0.026 mole, 2.63 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N,N-dipropyl-1H-imidazo[4,5-b]pyridine-1-acetamide hydrate | 0.91 g | O.ClC1=CC=C(C=C1)C=1N(C=2C(=NC=CC2)N1)CC(=O)N(CCC)CCC | InChI=1S/C20H23ClN4O.H2O/c1-3-12-24(13-4-2)18(26)14-25-17-6-5-11-22-19(17)23-20(25)15-7-9-16(21)10-8-15;/h5-11H,3-4,12-14H2,1-2H3;1H2
